* A quad pnp ngspice subcircuit model of the THAT320 transistor array.
* It has a cross-reference with the MPQ2907 transistor array.
* The MPQ2907 contains four 2N2907A PNP transistors  
* file name: THAT320-quad.lib
*
*  
* connections:   Collector Q1
*                    | Base Q1   
*                    |   |  Emitter Q1 
*                    |   |   |  No con. 
*                    |   |   |   |  Emitter Q2 
*                    |   |   |   |   |  Base Q2
*                    |   |   |   |   |   | Collector Q2
*                    |   |   |   |   |   |   | Collector Q3 
*                    |   |   |   |   |   |   |   | Base Q3                             
*                    |   |   |   |   |   |   |   |   |  Emitter Q3           
*                    |   |   |   |   |   |   |   |   |   |   No con.        
*                    |   |   |   |   |   |   |   |   |   |    | Emitter Q4 
*                    |   |   |   |   |   |   |   |   |   |    |   | Base Q4  
*                    |   |   |   |   |   |   |   |   |   |    |   |   |  Collector Q4        
*                    |   |   |   |   |   |   |   |   |   |    |   |   |    |   
*
.subckt THAT320      1   2   3   4   5   6   7   8   9   10   11  12  13   14 
.include 2N2907A.lib 
Q1  1    2   3   2N2907A
Q2  14   13  12  2N2907A
Q3  7    6   5   2N2907A
Q4  8    9   10  2N2907A
.ends 

